US03991068
The haloalkylpyridine reactants employed as starting materials in the present invention are readily available or can be prepared according to known procedures or procedures analogous thereto. For example, the 3,6-dichloro-2-chloromethyl pyridine is prepared by converting the methyl ester of 3,6-dichloropyridine carboxylic acid to the corresponding alcohol by reaction with NaBH4 and methanol in the presence of water. The 3,6-dichloro-2-hydroxymethylpyridine product is then reacted with thionyl chloride in the presence of a catalytic amount of pyridine hydrochloride at temperatures of about 65° C. for a period of from about 15 to about 20 minutes. The thionylchloride is then removed by evaporation and the residue cooled, mixed with ice and then extracted with hexane. The desired 3,6-dichloro-2-chloromethyl pyridine reactant is obtained as a light yellow oil. Other haloalkyl pyridine starting materials can be prepared in an analogous manner.

reactant | 3,6-dichloropyridine carboxylic acid | ClC=1C(=NC(=CC1)Cl)C(=O)O | C6H3Cl2NO2
reactant | NaBH4 | [BH4-].[Na+]
reactant | 3,6-dichloro-2-hydroxymethylpyridine | ClC=1C(=NC(=CC1)Cl)CO | C6H5Cl2NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 3,6-dichloro-2-chloromethyl pyridine | ClC=1C(=NC(=CC1)Cl)CCl | C6H4Cl3N
